datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[n+]1cccc2cccc([O-:10])c21.Cc1nn(-c2ccccc2)c([O:21][H:20])c1C(C)C>>C[n+]1cccc2cccc([O:10][H:20])c21.Cc1nn(-c2ccccc2)c([O-:21])c1C(C)C 10=20;20,21=21",
"C[NH2+]CC(=O)c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH2+]CC(=O)c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC[NH2+]CC[NH:10]CCC.O=C(c1cc(Br)cs1)[O:21][H:20]>>CCC[NH2+]CC[NH+:10](CCC)[H:20].O=C(c1cc(Br)cs1)[O-:21] 10=20;20,21=21",
"C1CCC(P(C2CCCCC2)(C2CCCCC2)=[O:10])CC1.C[C@H]1CC[C@H](C(=O)[O:21][H:20])CC1>>C1CCC(P(C2CCCCC2)(C2CCCCC2)=[O+:10][H:20])CC1.C[C@H]1CC[C@H](C(=O)[O-:21])CC1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc([O-:10])c(CN2CCCC2)c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc([O:10][H:20])c(CN2CCCC2)c1 10=20;20,21=21",
"Cc1ncnc2nc[n-:10]c12.[O-][n+]1cnc2[nH]cnc2c1[N:21](Cc1ccccc1)[H:20]>>Cc1ncnc2nc[n:10]([H:20])c12.[O-][n+]1cnc2[nH]cnc2c1[N-:21]Cc1ccccc1 10=20;20,21=21",
"C[NH2+]CC(=O)c1ccc([O-:10])cc1.Cc1ccc(C(=O)[O:21][H:20])c(Br)c1>>C[NH2+]CC(=O)c1ccc([O:10][H:20])cc1.Cc1ccc(C(=O)[O-:21])c(Br)c1 10=20;20,21=21",
"CC[NH2+]C(C)C(=O)[O-:10].O=S(c1ccccc1)[O:21][H:20]>>CC[NH2+]C(C)C(=O)[O:10][H:20].O=S(c1ccccc1)[O-:21] 10=20;20,21=21",
"Cc1nc(C)c(C)[n:10]c1C.OCCC[NH2+]CC[NH2+:21][H:20]>>Cc1nc(C)c(C)[n+:10]([H:20])c1C.OCCC[NH2+]CC[NH2:21] 10=20;20,21=21",
"C[Si](C)(C)C[NH2:10].[NH3+]c1ccccc1[NH2+:21][H:20]>>C[Si](C)(C)C[NH2+:10][H:20].[NH3+]c1ccccc1[NH2:21] 10=20;20,21=21",
"Cc1ccc(Br)cc1C(=O)[O-:10].Cc1ccccc1C(=NCCC[N+:21](C)(C)[H:20])c1ccccc1C>>Cc1ccc(Br)cc1C(=O)[O:10][H:20].Cc1ccccc1C(=NCCC[N:21](C)C)c1ccccc1C 10=20;20,21=21",
"C[Se](C)=[O:10].Cc1ccc(NCC[NH+:21](c2ccc(C)cc2)[H:20])cc1>>C[Se](C)=[O+:10][H:20].Cc1ccc(NCC[NH:21]c2ccc(C)cc2)cc1 10=20;20,21=21",
"NC(=O)c1cc(-c2ccccc2)nnc1[N-:10]CCN1CCOCC1.NS(=O)(=O)c1ccc(C(=O)[O:21][H:20])cc1>>NC(=O)c1cc(-c2ccccc2)nnc1[N:10](CCN1CCOCC1)[H:20].NS(=O)(=O)c1ccc(C(=O)[O-:21])cc1 10=20;20,21=21",
"CN(C)C(=O)C[S-:10].CN(C)[N+:21](=C(N)CC[Si](C)(C)C)[H:20]>>CN(C)C(=O)C[S:10][H:20].CN(C)[N:21]=C(N)CC[Si](C)(C)C 10=20;20,21=21",
"CC[NH+](CC)CCCC(C)Nc1cc[n:10]c2ccccc12.COc1ccc(OC)c2c1n(C)c(CCl)[n+:21]2[H:20]>>CC[NH+](CC)CCCC(C)Nc1cc[n+:10]([H:20])c2ccccc12.COc1ccc(OC)c2c1n(C)c(CCl)[n:21]2 10=20;20,21=21",
"O=C1C=C(c2ccccc2)Oc2cc([O:21][H:20])ccc21.c1c[nH+]c(Cc2[nH]cc[n:10]2)[nH]1>>O=C1C=C(c2ccccc2)Oc2cc([O-:21])ccc21.c1c[nH+]c(Cc2[nH]cc[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCCn1cc[n+:21]([H:20])c1.Cc1n[n:10]c(C)c(C)c1C>>CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCCn1cc[n:21]c1.Cc1n[n+:10]([H:20])c(C)c(C)c1C 10=20;20,21=21",
"CCCCCCC(=O)[O-:10].Cc1ccc(C[NH2+:21][H:20])cc1>>CCCCCCC(=O)[O:10][H:20].Cc1ccc(C[NH2:21])cc1 10=20;20,21=21",
"CCOC(=O)[N-:10]c1nnc(c2ccccc2)s1.[NH3+]C1CO[N:21]([H:20])C1=O>>CCOC(=O)[N:10](c1nnc(c2ccccc2)s1)[H:20].[NH3+]C1CO[N-:21]C1=O 10=20;20,21=21",
"CC1=CC(C)=N/C(=[O+:21]\[H:20])N1C.Cc1cc([O-:10])c(C(C)C)cc1Nc1ccc([O-])cc1>>CC1=CC(C)=NC(=[O:21])N1C.Cc1cc([O:10][H:20])c(C(C)C)cc1Nc1ccc([O-])cc1 10=20;20,21=21",
"C/C=C/c1ccc2cccnc2c1[O-:10].CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccccc3)C(=O)N2[C@@H]1C(=O)[O:21][H:20]>>C/C=C/c1ccc2cccnc2c1[O:10][H:20].CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccccc3)C(=O)N2[C@@H]1C(=O)[O-:21] 10=20;20,21=21",
"COc1ccc(-c2[nH]c3cncnc3[n+:21]2[H:20])c(OC)c1.N#CC(C#N)=N[N-:10]c1ccccc1Cl>>COc1ccc(-c2[nH]c3cncnc3[n:21]2)c(OC)c1.N#CC(C#N)=N[N:10](c1ccccc1Cl)[H:20] 10=20;20,21=21",
"Cc1[nH]cnc1CSCCNC(NCCCc1c[nH]cn1)=[NH:10].O=C1CNC(=O)C(CCC(=O)[O:21][H:20])N1>>Cc1[nH]cnc1CSCCNC(NCCCc1c[nH]cn1)=[NH+:10][H:20].O=C1CNC(=O)C(CCC(=O)[O-:21])N1 10=20;20,21=21",
"NC(=O)CCCc1cc[n+:21]([H:20])cc1.O=C([C@H]1C[C@@H]1c1ccccc1)[O-:10]>>NC(=O)CCCc1cc[n:21]cc1.O=C([C@H]1C[C@@H]1c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CCNC(=O)C=C(c1ccccc1)[S:21][H:20].COc1ccc([N-:10]C(C)=S)cc1>>CCNC(=O)C=C(c1ccccc1)[S-:21].COc1ccc([N:10](C(C)=S)[H:20])cc1 10=20;20,21=21",
"CC(C)(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])C=C1>>CC(C)(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)C=C1 10=20;20,21=21",
"NCc1ccc(S(=O)(=O)[NH:21][H:20])cc1.OC[C@H]1CCC[N:10]2CCCC[C@@H]12>>NCc1ccc(S(=O)(=O)[NH-:21])cc1.OC[C@H]1CCC[N+:10]2([H:20])CCCC[C@@H]12 10=20;20,21=21",
"CC(C)(C)[NH:10]CCO.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)(C)[NH+:10](CCO)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(C)c1ccc2c(c1)CC[C@H]1[C@](C)(C(=O)[O:21][H:20])CCC[C@]21C.Nc1c2c(nc[n+]1[O-])nc[n-:10]2>>CC(C)c1ccc2c(c1)CC[C@H]1[C@](C)(C(=O)[O-:21])CCC[C@]21C.Nc1c2c(nc[n+]1[O-])nc[n:10]2[H:20] 10=20;20,21=21",
"O=Cc1cc(Br)cc([N+](=O)[O-])c1[O-:10].c1c[nH]c(C[S:21][H:20])n1>>O=Cc1cc(Br)cc([N+](=O)[O-])c1[O:10][H:20].c1c[nH]c(C[S-:21])n1 10=20;20,21=21",
"CC(C)c1ccccc1C(=O)[O-:10].CN(C)C1CC[NH+:21]([H:20])CC1>>CC(C)c1ccccc1C(=O)[O:10][H:20].CN(C)C1CC[NH:21]CC1 10=20;20,21=21",
"C1CCc2n[n+:21]([H:20])c3c(c2CC1)CCCC3.CC(C)(C=O)[N:10](C)C>>C1CCc2n[n:21]c3c(c2CC1)CCCC3.CC(C)(C=O)[N+:10](C)(C)[H:20] 10=20;20,21=21",
